US09024027B2
A mixture of methyl 2-(6-nitro-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (0.570 g, 2.260 mmol) and 10% w/w Pd/C (a catalytic amount) in MeOH (30 ml) and ethyl acetate (30 ml) was hydrogenated in a Parr apparatus at 20 psi for 1 hour. The catalyst was filtered off and the solvent was removed affording methyl 2-(6-amino-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (0.497 g, 2.237 mmol, 99% yield). MS/ESI+ 222.9 [MH]+.

reactant | methyl 2-(6-nitro-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 2.260 mmol, 0.570 g | [N+](=O)([O-])C1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C10H8N2O6
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-(6-amino-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 2.237 mmol, 0.497 g, 99% yield | NC1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C10H10N2O4
